US05919779
To a solution of 4, 5-di-(2-chloropyridin-3-yl)-2-aminothiazole (0.060 g) in tetrahydrofuran (5 mL) was added butylnitrite (0.060 g). The mixture was heated under reflux for 3 hours. Further butylnitrite was added, and heating was continued for 2 hours. The solvent was evaporated, and the residue was fractionated by chromatography over silica gel to give 4, 5-di-(2-chloropyridin-3-yl)thiazole (0.035 g) as a solid.

reactant | 4, 5-di-(2-chloropyridin-3-yl)-2-aminothiazole | 0.060 g | ClC1=NC=CC=C1C=1N=C(SC1C=1C(=NC=CC1)Cl)N | C13H8Cl2N4S
reactant | butylnitrite | 0.060 g | C(CCC)ON=O | C4H9NO2
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 4, 5-di-(2-chloropyridin-3-yl)thiazole | 0.035 g | ClC1=NC=CC=C1C=1N=CSC1C=1C(=NC=CC1)Cl | C13H7Cl2N3S
